US07307075B2
4-(3-Chloropropyl)-7,8-difluoro-4H-benzo[1,4]oxazin-3-one (81MF2082b)
7,8-Difluoro-4H-benzo[1,4]oxazin-3-one (81MF2082a) (0.119 g, 0.64 mmol), Cs2CO3 (0.314 g, 0.96 mmol) and 3-chloro-1-iodopropane (0.144 g, 0.70 mmol) were mixed according to GP5 giving the crude title compound (0.156 g); 1H NMR (CDCl3) δ 6.89-6.82 (m, 1H), 6.78-6.74 (m, 1H), 4.68 (s, 2H), 4.08 (t, J=7.2 Hz, 2H), 3.62 (t, J=6.4 Hz, 2H), 2.18-2.10 (m, 2H); 13CNMR (CDCl3) δ 163.5, 147.7 (q, J=245.6 Hz, J=10.4 Hz), 141.0 (q, J=249.4 Hz, J=15.7 Hz), 135.5, 126.2, 109.9 (d, J=18.4 Hz), 108.6 (q, J=7.6 Hz, J=4.2 Hz), 67.8, 42.3, 39.4, 30.0.

reactant | 7,8-Difluoro-4H-benzo[1,4]oxazin-3-one | 0.64 mmol, 0.119 g | FC1=C(C2=C(NC(CO2)=O)C=C1)F | C8H5F2NO2
reactant | Cs2CO3 | 0.96 mmol, 0.314 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-chloro-1-iodopropane | 0.70 mmol, 0.144 g | ClCCCI | C3H6ClI
product | 4-(3-Chloropropyl)-7,8-difluoro-4H-benzo[1,4]oxazin-3-one | 0.156 g | ClCCCN1C(COC2=C1C=CC(=C2F)F)=O | C11H10ClF2NO2
